US04386100
Ethyl chloroformate (0.6 g.) was added slowly to a stirred mixture of 3-benzyloxycarbonyl-1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (2.55 g.) and sodium carbonate (2.0 g.) in 1,2-dimethoxyethane (60 ml.). The mixture was stirred for 16 hours and the solid then removed by filtration. The filtrate was evaporated to give an oil which solidified on treatment with a few drops of ether. This solid was recrystallised from ethyl acetate/petrol 60-80 to give 3-benzyloxycarbonyl-1-ethoxycarbonyl-1'(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (1.8 g.), m.p. 128°-131° C.

reactant | Ethyl chloroformate | 0.6 g | ClC(=O)OCC | C3H5ClO2
reactant | 3-benzyloxycarbonyl-1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 2.55 g | C(C1=CC=CC=C1)OC(=O)N1C(NC(C12C(N(C1=CC=CC=C21)CC2=CC(=C(C=C2)Cl)Cl)=O)=O)=O | C25H17Cl2N3O5
reactant | sodium carbonate | 2.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 60 ml | COCCOC | C4H10O2
catalyst | ether | a few drops | CCOCC | C4H10O
product | 3-benzyloxycarbonyl-1-ethoxycarbonyl-1'(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 1.8 g | C(C1=CC=CC=C1)OC(=O)N1C(N(C(C12C(N(C1=CC=CC=C21)CC2=CC(=C(C=C2)Cl)Cl)=O)=O)C(=O)OCC)=O | C28H21Cl2N3O7
